US09233974B2
To 9-bromo-3-(2-bromo-1-hydroxyethyl)-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one (approx. 54.4 mmol) in DCM (365 mL) was added sodium bicarbonate (5.45 g), sodium bromide (6.14 g), TEMPO (16.55 mg) and water (60 mL). The solution was cooled between 0-5° C. and 6% bleach (91.5 mL) was added. After 1 h isopropyl alcohol (20 mL) was added and the reaction mixture was warmed to room temperature. Agitation was stopped, the layers separated and the lower organic layer was collected and concentrated removing approximately 345 g of solvent. The slurry was filtered and the cake washed with 50 mL water and then 50 mL DCM (pre-cooled to 5° C.). The solids were collected and dried under vacuum to obtain 9-bromo-3-(2-bromoacetyl)-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one (18.6 g, 76% yield). 400 MHz 1H NMR (CDCl3) δ 8.03-8.01 (m, 1H), 7.85 (d, J=8.2 Hz, 1H), 7.82 (s, 1H), 7.71 (s, 1H), 7.67 (s, 1H), 5.19 (s, 2H), 4.74 (dd, J=4.1, 4.1 Hz, 1H), 4.45 (s, 2H), 3.37-3.29 (m, 1H), 2.99-2.92 (m, 1H), 2.59-2.46 (m, 2H); 100 MHz 13C NMR (CDCl3) δ 190.4, 189.6, 154.2, 136.6, 134.1, 133.9, 132.9, 131.8, 129.3, 127.2, 125.6, 124.2, 123.3, 117.0, 68.1, 49.9, 31.8, 30.4, 25.5.

reactant | 9-bromo-3-(2-bromo-1-hydroxyethyl)-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one | approx. 54.4 mmol | BrC1C(C=2C(=CC=3C4=C(COC3C2)C=C(C=C4)C(CBr)O)CC1)=O | C19H16Br2O3
reactant | sodium bicarbonate | 5.45 g | C([O-])(O)=O.[Na+]
reactant | sodium bromide | 6.14 g | [Br-].[Na+]
reactant | water | 60 mL | O | H2O
solvent | DCM | 365 mL | C(Cl)Cl | CH2Cl2
catalyst | TEMPO | 16.55 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | isopropyl alcohol | 20 mL | C(C)(C)O | C3H8O
product | 9-bromo-3-(2-bromoacetyl)-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one | 18.6 g, 76% yield | BrC1C(C=2C(=CC=3C4=C(COC3C2)C=C(C=C4)C(CBr)=O)CC1)=O | C19H14Br2O3
